US08071592B2
(a) Methyl N-(4-fluoro-2-nitrophenyl)glycinate
A mixture of 2,5-difluoronitrobenzene (54.6 g, 343 mmol), glycine methyl ester hydrochloride (47.3 g, 374 mmol) and triethylamine (114.5 mL, 818 mmol) was heated at 65° C. (internal temperature) in THF (1500 mL) over a 3 night period. Additional glycine methyl ester hydrochloride (30 g) and triethylamine (20 mL) were added and the heating continued for a further 2 nights. The mixture was cooled, filtered and evaporated to dryness. The residue was treated with 5M hydrochloric acid and the orange solid was filtered off, washed well with water (total ˜2 L) and dried under vacuum to give the product (58.5 g). The product was then extracted with ethyl acetate (600 ml total), filtered and evaporated. The residue was slurried with water (1 L), filtered and dried to give product (40 g, 51%).

reactant | 2,5-difluoronitrobenzene | 343 mmol, 54.6 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | glycine methyl ester hydrochloride | 374 mmol, 47.3 g | Cl.COC(CN)=O
reactant | triethylamine | 818 mmol, 114.5 mL | C(C)N(CC)CC | C6H15N
reactant | glycine methyl ester hydrochloride | 30 g | Cl.COC(CN)=O
reactant | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 1500 mL | C1CCOC1 | C4H8O
product | Methyl N-(4-fluoro-2-nitrophenyl)glycinate | 58.5 g | FC1=CC(=C(C=C1)NCC(=O)OC)[N+](=O)[O-] | C9H9FN2O4
